US04898694
B. Synthesis of 16α Hydroxy-5-androsten-17-one
To a solution of 16α-Bromo-5-androsten-17-one (7.92 g, 20 mmoles) in pyridine (300 ml) and water (64 ml) in an oxygen atmosphere was added 36 ml (36 mmoles) of 1N NaOH. After stirring the mixture for 15 minutes at room temperature under O2, it was added to 1L of ice water containing 330 ml of concentrated HCl. The crystallized precipitate which formed was filtered off, washed with water, and recrystallized from methanol as leaflets (2,80 g), mp 168°-172°. HPLC of the mother liquor on a silica gel column using isopropyl alcohol n-hexane as eluent furnished an additional 1.4 g of light yellow prisms, mp 170°-174°. The total yield of 16α-ol was 3.94 g (68.4%).

reactant | 16α-Bromo-5-androsten-17-one | 20 mmoles, 7.92 g | Br[C@H]1C([C@]2(C)[C@@H](C1)[C@@H]1CC=C3CCCC[C@]3(C)[C@H]1CC2)=O | C19H27BrO
reactant | oxygen | O=O | O2
reactant | NaOH | 36 mmoles, 1N, 36 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 64 ml | O | H2O
product | 16α Hydroxy-5-androsten-17-one | 1.4 g | O[C@H]1C([C@]2(C)[C@@H](C1)[C@@H]1CC=C3CCCC[C@]3(C)[C@H]1CC2)=O | C19H28O2
